US04226768
7-Chloro-5-(2-fluorophenyl)-N-methoxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine 4-oxide
A solution of diazomethane in ether was added to a suspension of 3.8 g (0.01 mol) of 7-chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine 4-oxide in 200 ml of methylene chloride. The mixture was stirred for 1 hr at room temperature whereby a clear solution resulted. The excess diazomethane was destroyed by addition of acetic acid. The reaction mixture was washed with aqueous sodium bicarbonate solution, dried over sodium sulfate and evaporated. Crystallization of the residue from ether yielded yellow crystals. The analytical sample was recrystallized from ether, mp 207°-209°.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 7-chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine 4-oxide | 0.01 mol, 3.8 g | ClC=1C=CC2=C(C(=[N+](CC(=N2)C(=NO)[N+](=O)[O-])[O-])C2=C(C=CC=C2)F)C1 | C16H10ClFN4O4
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 7-Chloro-5-(2-fluorophenyl)-N-methoxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine 4-oxide | ClC=1C=CC2=C(C(=[N+](CC(=N2)C(=NOC)[N+](=O)[O-])[O-])C2=C(C=CC=C2)F)C1 | C17H12ClFN4O4
